* SPICE3 file created from compnew.ext - technology: sky130A


.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vpower VDPWR VGND 1.8
Vgnd VGND 0 DC 0

V2 resetp VGND pulse(0 1.8 80n 1n 1n 10ms 10ms)
V3 resetp1 VGND pulse(0 1.8 80n 1n 1n 10ms 10ms)
V4 vref VGND 0.7
V5 vin VGND pulse(0 1.8 1000n 500n 500n 500n 2000n)

X0 VGND a_n2560_3460# a_n2400_2680# VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X1 a_n80_2480# a_160_4380# VGND VGND sky130_fd_pr__nfet_01v8 ad=1.2 pd=5.2 as=1.2 ps=5.2 w=2 l=0.2
X2 VDPWR ugate upgatein VDPWR sky130_fd_pr__pfet_01v8 ad=1.8 pd=7.2 as=1.8 ps=7.2 w=3 l=0.2
X3 VDPWR a_n200_2520# a_900_2120# VDPWR sky130_fd_pr__pfet_01v8 ad=2.6 pd=9.3 as=2.6 ps=9.3 w=4 l=0.4
X4 a_2320_2240# resetp1 VDPWR VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X5 VGND a_160_4380# a_160_4380# VGND sky130_fd_pr__nfet_01v8 ad=1.2 pd=5.2 as=1.2 ps=5.2 w=2 l=0.2
X6 lowgateout ugate ugate VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=1
X7 lowgateout lowgate VDPWR VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X8 a_1110_3040# a_n200_2520# a_900_4180# VGND sky130_fd_pr__nfet_01v8 ad=1.3 pd=5.3 as=1.3 ps=5.3 w=2 l=0.4
X9 lowgateout lowgateout ugate VDPWR sky130_fd_pr__pfet_01v8 ad=2.4 pd=9.2 as=2.4 ps=9.2 w=4 l=0.15
X10 VGND a_n200_2520# a_900_4180# VGND sky130_fd_pr__nfet_01v8 ad=1.3 pd=5.3 as=1.3 ps=5.3 w=2 l=0.4
X11 lowgate lowgate VGND VGND sky130_fd_pr__nfet_01v8 ad=1.2 pd=5.2 as=1.2 ps=5.2 w=2 l=3.5
X12 a_n2560_3460# resetp VDPWR VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X13 VGND lowgateout a_n200_2520# VGND sky130_fd_pr__nfet_01v8 ad=3 pd=11.2 as=3 ps=11.2 w=5 l=0.15
X14 a_n420_2080# a_n80_2480# a_n200_2520# VDPWR sky130_fd_pr__pfet_01v8 ad=2.4 pd=9.2 as=2.4 ps=9.2 w=4 l=0.15
X15 VDPWR a_n420_2080# a_n540_2160# VDPWR sky130_fd_pr__pfet_01v8 ad=4.8 pd=17.2 as=2.4 ps=8.6 w=8 l=0.15
X16 a_n420_2080# a_n420_2080# VDPWR VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.15
X17 a_2280_2580# resetp1 VDPWR VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X18 a_2280_2580# resetp1 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X19 lowgateout lowgateout VGND VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=1
X20 a_n80_2480# vin a_n540_2160# VDPWR sky130_fd_pr__pfet_01v8 ad=6 pd=21.2 as=6 ps=21.2 w=10 l=0.15
X21 lowgate a_2320_2240# VGND sky130_fd_pr__res_high_po w=1 l=5.16
X22 VDPWR ugate ugate VDPWR sky130_fd_pr__pfet_01v8 ad=2.4 pd=9.2 as=2.4 ps=9.2 w=4 l=0.15
X23 a_n540_2160# vref a_160_4380# VDPWR sky130_fd_pr__pfet_01v8 ad=6 pd=21.2 as=6 ps=21.2 w=10 l=0.15
X24 a_1110_3040# a_n200_2520# a_900_2120# VDPWR sky130_fd_pr__pfet_01v8 ad=2.6 pd=9.3 as=2.6 ps=9.3 w=4 l=0.4
X25 a_n540_2160# ugate VDPWR VDPWR sky130_fd_pr__pfet_01v8 ad=2.4 pd=8.6 as=4.8 ps=17.2 w=8 l=0.15
X26 ugate upgatein a_n2400_2680# VDPWR sky130_fd_pr__pfet_01v8 ad=1.2 pd=5.2 as=1.2 ps=5.2 w=2 l=0.2
X27 a_n2400_2680# upgatein VGND sky130_fd_pr__res_high_po w=1 l=5.16
X28 VDPWR ugate ugate VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=2
X29 lowgateout lowgateout VGND VGND sky130_fd_pr__nfet_01v8 ad=3 pd=11.2 as=3 ps=11.2 w=5 l=0.15
X30 VGND resetp a_n2400_2680# VDPWR sky130_fd_pr__pfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X31 a_n2560_3460# resetp VGND VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
X32 a_2320_2240# a_2280_2580# VDPWR VGND sky130_fd_pr__nfet_01v8 ad=0.6 pd=3.2 as=0.6 ps=3.2 w=1 l=0.2
C0 VDPWR ugate 3.55083f
C1 lowgate VGND 2.83424f 
C2 lowgateout VGND 3.78077f 
C3 VDPWR VGND 35.724f 

.tran 1n 15u
.end
